US08614215B2
Intermediate 72: N-(2-Hydroxyethyl)-4-methoxy-2-nitrobenzenesulfonamide
4-Methoxy-2-nitrobenzenesulfonyl chloride (3.1 g; 12.3 mmol; 1 eq) is dissolved in DCM (60 mL) in the presence of triethylamine (1.7 mL; 12.3 mmol; 1 eq) at 0° C. Ethanolamine (0.6 mL; 13.6 mmol; 1.1 eq) is then added and the reaction mixture is stirred at room temperature for 16 h. Water is added to the reaction mixture then aqueous Na2CO3. The organic phase is dried over MgSO4 and the solvent is evaporated under reduced pressure to give 2.9 g (85%) of the title compound as an orange oil, 1H NMR (DMSO-d6) δ 7.92 (d, J=3.2 Hz, 1H), 7.85-7.78 (m, 1H), 7.56 (d, J=2.5 Hz, 1H), 7.37 (dd, J=8.9, 2.6 Hz, 1H), 4.79-4.71 (m, 1H), 3.90 (s, 3H), 3.42-3.46 (m, 2H), 2.92-2.87 (m, 2H). HPLC (max plot) 52.3%; Rt 220 min. UPLCIMS: (ES+) 277.2, (ES−) 275.2.

reactant | 4-Methoxy-2-nitrobenzenesulfonyl chloride | 12.3 mmol, 3.1 g, 1 eq | COC1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C7H6ClNO5S
reactant | triethylamine | 12.3 mmol, 1.7 mL, 1 eq | C(C)N(CC)CC | C6H15N
reactant | Ethanolamine | 13.6 mmol, 0.6 mL, 1.1 eq | C(O)CN | C2H7NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | N-(2-Hydroxyethyl)-4-methoxy-2-nitrobenzenesulfonamide | 2.9 g, 85% | OCCNS(=O)(=O)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C9H12N2O6S
